US05134167
1-(o-Chlorophenyl)-3-(p-fluorophenyl)-2-formylprop-1-ene
71.7 g (0.51 mol) of 2-chlorobenzaldehyde are added to a solution of 4 g of 50% strength sodium hydroxide solution in 300 ml of methanol while cooling, at a rate such that the temperature does not exceed 20° C. 70.0 g (0.46 mol) of p-fluorodihydrocinnamaldehyde are then added dropwise at 25°-30° C. in the course of 4 hours. Stirring is continued for one hour at 30° C., the mixture is neutralized with dilute sulfuric acid and evaporated down and the residue is distilled.

reactant | 2-chlorobenzaldehyde | 0.51 mol, 71.7 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-fluorodihydrocinnamaldehyde | 0.46 mol, 70.0 g | FC1=CC=C(CCC=O)C=C1 | C9H9FO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 300 ml | CO | CH4O
product | 1-(o-Chlorophenyl)-3-(p-fluorophenyl)-2-formylprop-1-ene | ClC1=C(C=CC=C1)C=C(CC1=CC=C(C=C1)F)C=O | C16H12ClFO
